### PR TITLE
lib: add `gets_gets_the_corres_ex_abs'` to `ExtraCorres`

### PR DESCRIPTION
**Pull request by michaelmcinerney**

### CODE REVIEW

**Review by lsf37 — APPROVED** [review]

File: lib/ExtraCorres.thy [hunk 1]
```diff
@@ -311,14 +311,24 @@ lemmas corres_symb_exec_r_conj_ex_abs_forwards =
...
 lemmas gets_the_corres_ex_abs = gets_the_corres_ex_abs'[THEN iffD2]
 
+lemma gets_gets_the_corres_ex_abs':
+  "no_ofail (P' and ex_abs_underlying sr P) b \<Longrightarrow>
+   corres_underlying sr False True r P P' (gets a) (gets_the b)
+   = (\<forall>s s'. P s \<and> P' s' \<and> (s, s') \<in> sr \<longrightarrow> r (a s) (the (b s')))"
+  apply (frule gets_the_corres_ex_abs'[where a="ogets a" and r=r, rotated])
+   apply wpsimp
+  apply (clarsimp simp: gets_the_ogets)
+  apply (clarsimp simp: ogets_def)
```
Comment (Xaphiosis) [inline lib/ExtraCorres.thy:329]: surprised these two can't be collapsed, but I guess you would if you could

**Review by Xaphiosis — APPROVED** [review]

File: lib/ExtraCorres.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/ExtraCorres.thy:329]: Yup, tried everything. The only thing that worked in one go was a `metis` that sledgehammer found, unfortunately
